US04723016
The procedure of Example 1 was followed using perfluorohexanesulfonyl fluoride (7.9 g, 19.6 mmol), potassium trimethylsilanolate (2.52 g, 19.6 mmol), dry ether (150 mL), and a reaction time of nine days. Potassium perfluorohexanesulfonate (4.6 g, 53% yield) was isolated as a white solid: 19F NMR (methanol) δ -81.1 (m, --CF3 --, 3F), -114.4 (m, --CF2SO3⃝, 2F), -120.6 (m, --CF2CF2SO3⃝, 2F), -121.7 (m, --CF2 (CF2)2SO3⃝, 2F), -122.6 (m, CF3CF2CF2, 2F), 126.1 ppm (m, CF3CF2 --, 2F).

reactant | perfluorohexanesulfonyl fluoride | 19.6 mmol, 7.9 g | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C6F14O2S
reactant | potassium trimethylsilanolate | 19.6 mmol, 2.52 g | C[Si]([O-])(C)C.[K+]
solvent | ether | 150 mL | CCOCC | C4H10O
product | Potassium perfluorohexanesulfonate | 4.6 g, 53% yield | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[K+] | InChI=1S/C6HF13O3S.K/c7-1(8,3(11,12)5(15,16)17)2(9,10)4(13,14)6(18,19)23(20,21)22;/h(H,20,21,22);/q;+1/p-1
